US08252781B2
Preparation of 1-[(3-chlorophenyl)carbonyl]-2-cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one
2-Cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one prepared in Process 5 of Example 73 and 3-chlorobenzoyl chloride were used for a similar reaction and treatment as Example 96, and the title compound was obtained as a white crystalline powder.

reactant | 2-Cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one | C1(CCCCCCC1)N1NC(C1=O)(C)C | C12H22N2O
reactant | 3-chlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | 1-[(3-chlorophenyl)carbonyl]-2-cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one | ClC=1C=C(C=CC1)C(=O)N1N(C(C1(C)C)=O)C1CCCCCCC1 | C19H25ClN2O2
